US05679576
A 500 ml reactor was charged with 50 ml of 98% sulfuric acid, 100 g (5 mol) of hydrogen fluoride, and 30 g (1 mol) of paraformaldehyde. This reaction mixture was heated to 65° C. Then, 134 g (0.8 mol) of HFIP was added dropwise, over 2 hr. Vapors generated by the reaction were collected using water. With this, 140 g of crude SEVOFLURANE was obtained.

reactant | hydrogen fluoride | 5 mol, 100 g | F | FH
reactant | paraformaldehyde | 1 mol, 30 g | C=O | CH2O
reactant | HFIP | 0.8 mol, 134 g | C(C(F)(F)F)(C(F)(F)F)O | C3H2F6O
solvent | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
product | SEVOFLURANE | 140 g | C(OC(C(F)(F)F)C(F)(F)F)F | C4H3F7O
